datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C([H])C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[O-:21][CH:20]2(C)C(C3=C(C([NH+:10]2(C))[H])C=CC=C3)O>>[NH:10](C)C(C1=C(C([CH:20](C)=[O:21])O)C=CC=C1)[H] 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[O+:10]([K])C(CC)C(C)C1O 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(CC)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(CC)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21][H])([O]CC)[NH]CC.[Cl-]>>[Cl-].CC[O:10][H].[H][NH+:21]=[C:20]([O]CC)[NH]CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)CC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S][H].[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S][H] 21=20;20,10=10"
"[OH:10]C([H])C([H])C([H])C(C)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)C([H])C([H])C([H])[OH+:10]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(CC)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][NH:10]C([H])C(CC)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
